US05686463
(a) 1-Benzyl-3-hydroxymethylpyrrolidine
This was prepared from itaconic acid and benzylamine by the procedure described by Feldkamp et al. J. Am. Chem. Soc.. (1961). 1519.

reactant | itaconic acid | C(C(=C)CC(=O)O)(=O)O | C5H6O4
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | 1-Benzyl-3-hydroxymethylpyrrolidine | C(C1=CC=CC=C1)N1CC(CC1)CO | C12H17NO
